US07893267B2
0.3 g (75%) of 2-[(isoquinoline-3-carbonyl)-amino]-6-pyridin-4-yl-3H-benzoimidazole-4-carboxylic acid methyl ester was synthesized from 0.16 g (0.09 mmol) of isoquinoline-3-carboxylic acid, 0.4 g (1 mmol) of HBTU, and 0.25 g (0.09 mmol) of the above synthesized 2-amino-6-pyridin-4-yl-1H-benzoimidazole-4-carboxylic acid methyl ester as described in general procedure A. LCMS: 424 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 0.09 mmol, 0.16 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 1 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-6-pyridin-4-yl-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC(=CC=2NC(=NC21)N)C2=CC=NC=C2 | C14H12N4O2
product | 2-[(isoquinoline-3-carbonyl)-amino]-6-pyridin-4-yl-3H-benzoimidazole-4-carboxylic acid methyl ester | 0.3 g, 75% | COC(=O)C1=CC(=CC=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)C2=CC=NC=C2 | C24H17N5O3
